US04822889
(3-R*,4-S*)-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxy-octan-3-ol (Compound No. 1)
280 g of 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxyoctan-3-one were dissolved in 1.8 liters of dioxane, 10 g of RuO(OH)x were added, and hydrogenation was then carried out in an autoclave for 62 hours under a hydrogen pressure of 25 bar and at 125°. The hydrogenation catalyst was filtered off and the solvent distilled off to give 274 g of residue; according to NMR analysis, this residue contained, in addition to 5% of the starting ketone, the compound No. 1 (R*,S*) and its diastereomer (R*,R*) in a ratio of 7:3. It was possible to isolate the compound No. 1 from the mixture by crystallization from diisopropyl ether.

reactant | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxyoctan-3-one | 280 g | CC(C)(C(C(CCCCOC1=CC=CC=C1)N1N=CN=C1)=O)C | C18H25N3O2
solvent | dioxane | 1.8 liters | O1CCOCC1 | C4H8O2
product | (3-R*,4-S*)-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxy-octan-3-ol | 274 g | CC(C)([C@H]([C@H](CCCCOC1=CC=CC=C1)N1N=CN=C1)O)C | C18H27N3O2
